US07459465B2
By the reaction in the same manner as in Example 1a, using N,N-diethyl-2-methylbenzamide (3.45 g) and 4-(3-hydroxypyrrolidin-1-yl)butyronitrile (1.5 g), 3-[3-(3-hydroxypyrrolidin-1-yl)propyl]-2H-isoquinolin-1-one (536.3 mg) was obtained.

reactant | N,N-diethyl-2-methylbenzamide | 3.45 g | C(C)N(C(C1=C(C=CC=C1)C)=O)CC | C12H17NO
reactant | 4-(3-hydroxypyrrolidin-1-yl)butyronitrile | 1.5 g | OC1CN(CC1)CCCC#N | C8H14N2O
product | 3-[3-(3-hydroxypyrrolidin-1-yl)propyl]-2H-isoquinolin-1-one | 536.3 mg | OC1CN(CC1)CCCC=1NC(C2=CC=CC=C2C1)=O | C16H20N2O2
